US09102637B2
(c) ethyl 5-(4-fluorobenzamido)-2-[methyl(quinolin-6-yl)amino]thiazole-4-carboxylate
To a solution of ethyl 2-bromo-5-(4-fluorobenzamido)-thiazole-4-carboxylate (0.2 g, 0.50 mmol) in toluene (10 mL) was added Xantphos (0.061 g, 0.10 mmol) and Pd2(dba)3 (0.048 g, 0.040 mmol) under argon gas. To this suspension, cesium carbonate (0.344 g, 0.90 mmol) and N-methylquinolin-6-amine (0.084 g, 0.53 mmol) were added, and the mixture was heated at 110° C. for 16 h. The reaction mixture was filtered through a bed of Celite, and the celite pad was washed with ethyl acetate (3×5 mL). The filtrate was concentrated, and the crude residue was purified by silica gel column chromatography eluted with 50% EtOAc in hexane to give 0.14 g (58% yiled) of the titled compound.

reactant | ethyl 2-bromo-5-(4-fluorobenzamido)-thiazole-4-carboxylate | 0.50 mmol, 0.2 g | BrC=1SC(=C(N1)C(=O)OCC)NC(C1=CC=C(C=C1)F)=O | C13H10BrFN2O3S
reactant | Xantphos | 0.10 mmol, 0.061 g | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | cesium carbonate | 0.90 mmol, 0.344 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | N-methylquinolin-6-amine | 0.53 mmol, 0.084 g | CNC=1C=C2C=CC=NC2=CC1 | C10H10N2
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | 0.040 mmol, 0.048 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | ethyl 5-(4-fluorobenzamido)-2-[methyl(quinolin-6-yl)amino]thiazole-4-carboxylate | FC1=CC=C(C(=O)NC2=C(N=C(S2)N(C=2C=C3C=CC=NC3=CC2)C)C(=O)OCC)C=C1 | C23H19FN4O3S
